US07022707B2
(+/−) 4-Chlorocarbonyl-2-ethylpiperazine-1-carboxylic acid tert-butyl ester:
a solution of (RS) 4-tert-butoxycarbonyl-2-ethylpiperazine (3.95 g) and pyridine (1.64 ml) in DCM (35 ml) was added dropwise to a stirred solution of triphosgene (2.1 g) in DCM (100 ml) at 0° C. under Ar. The mixture was warmed to room temperature, stirred for 30 min then washed with water (100 ml) and brine (100 ml). The organic solution was dried (sodium sulfate) and concentrated in vacuo. The residue was dissolved in isohexane, filtered and concentrated in vacuo to give the product as a clear oil (3.73 g) which was used without further purification; δH (400 MHz, CDCl3) 4.39–3.80 (4H, m), 3.39–2.69 (3H, m), 1.66 (2H, m), 1.47 (9H, s), 0.96 (2.7H, d, J 7 Hz) and 0.89 (0.3H, d, J 7 Hz); GC (150° C.-10 min-320° C.) 83%, 8.72 min.

reactant | (RS) 4-tert-butoxycarbonyl-2-ethylpiperazine | 3.95 g | C(C)(C)(C)OC(=O)N1CC(NCC1)CC | C11H22N2O2
reactant | pyridine | 1.64 ml | N1=CC=CC=C1 | C5H5N
reactant | triphosgene | 2.1 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | DCM | 35 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | (+/−) 4-Chlorocarbonyl-2-ethylpiperazine-1-carboxylic acid tert-butyl ester | 3.73 g | C(C)(C)(C)OC(=O)N1C(CN(CC1)C(=O)Cl)CC | C12H21ClN2O3
